US06207678B1
1,2,3,4-Tetrahydro-6-naphthaldehyde (2.0 g) was suspended in 0.5M aqueous sodium hydroxide solution (125 ml), stirred vigorously and a 70% w/w solution of tertiary butyl hydroperoxide in water (10.3 ml) added. The mixture was heated at about 70° C. for 4 hours and then left to stand at room temperature for 3 days. A frther quantity of a 70% w/w solution of tertiary butyl hydroperoxide in water (10 ml) was added and the mixture heated at about 70° C. for a further 24 hours. The mixture was cooled, diethyl ether (100 ml) added and the phases separated. The aqueous phase was acidified to pH 1 with 2N aqueous hydrochloric acid solution and extracted with diethyl ether (2×100 ml). The organic phases were combined, dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give a residue which was chromatographed on silica gel eluting with a solvent gradient of 1:1 changing to 1:0, by volume, diethyl ether:pentane to give 1,2,3,4-tetrahydro-6-naphthoic acid (0.62 g) as a white solid.

reactant | 1,2,3,4-Tetrahydro-6-naphthaldehyde | 2.0 g | C1CCCC2=CC(=CC=C12)C=O | C11H12O
reactant | tertiary butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | sodium hydroxide | 0.5M, 125 ml | [OH-].[Na+]
solvent | water | 10.3 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 1,2,3,4-tetrahydro-6-naphthoic acid | 0.62 g | C1CCCC2=CC(=CC=C12)C(=O)O | C11H12O2
